US08110585B2
methyl 6-fluoro-2-methyl-3-nitrobenzoate
A crudely purified product (20.7 g) of 6-fluoro-2-methyl-3-nitrobenzoic acid was dissolved in N,N-dimethylformamide (208 mL), and potassium carbonate (28.7 g, 208 mmol) and iodomethane (8.45 mL, 135 mmol) were added at room temperature. The reaction solution was stirred at room temperature for 12 hr, and poured into water, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound as a crudely purified product (21.0 g, yield 95%).

reactant | 6-fluoro-2-methyl-3-nitrobenzoic acid | 20.7 g | FC1=CC=C(C(=C1C(=O)O)C)[N+](=O)[O-] | C8H6FNO4
reactant | potassium carbonate | 208 mmol, 28.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 135 mmol, 8.45 mL | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 208 mL | CN(C=O)C | C3H7NO
product | methyl 6-fluoro-2-methyl-3-nitrobenzoate | FC1=CC=C(C(=C1C(=O)OC)C)[N+](=O)[O-] | C9H8FNO4
